US04874850
The corresponding compounds of pyridine or substituted pyridine, as six-member heterocycle, can be prepared from the corresponding alkyl bromides or iodides in methanol at 35° C. and pyridine or substituted pyridines with a yield of 70%. The corresponding molar amounts of the alkyl bromide, almost all of which are available commercially but which must be subsequently preparatively purified by high-pressure liquid chromatography (HPLC), are firstly dissolved in methanol (10 times excess volume with respect to pyridine) and under nitrogen the stoichiometric amount of pyridine, also dissolved in methanol, added dropwise whilst stirring. Heating is carried out for 6 hours under reflux whilst stirring at 70° C. so that the reaction yield is almost quantitative. Thus, for example, the yield of hexadecyl-4-hydroxypyridinium chloride or bromide in methanol as solvent is 95%, with ethanol 80% and in ether/ethanol only 40%. Dodecylpyridinium chloride is obtained with a yield of almost 70%. 3,5-dihydroxydodecylpyridinium bromide is formed quantitatively in accordance with the above procedure from dodecyl bromide and 3,5-dihydroxypyridine in boiling chloroform after 4 hours (melting point 180° C.).

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | ethanol | C(C)O | C2H6O
reactant | hexadecyl-4-hydroxypyridinium chloride | [Cl-].C(CCCCCCCCCCCCCCC)[N+]1=CC=C(C=C1)O
solvent | methanol | CO | CH4O
solvent | bromide | [Br-]
solvent | ether ethanol | CCOCC.C(C)O
product | Dodecylpyridinium chloride | yield of 70% | [Cl-].C(CCCCCCCCCCC)[N+]1=CC=CC=C1 | InChI=1S/C17H30N.ClH/c1-2-3-4-5-6-7-8-9-10-12-15-18-16-13-11-14-17-18;/h11,13-14,16-17H,2-10,12,15H2,1H3;1H/q+1;/p-1
